US06927230B2
A mixture of 2-(4-methoxybenzoyl)-2-(4-methoxyphenyl)hydrazinecarboxamide (1.9 g, 6.03 mmol) in 10% potassium hydroxide solution (16 mL)-ethanol (8 mL) was heated at 60° C. for 1.5 hours. After cooling, the solvent was removed under reduced pressure. Water was added to the residue and the mixture was adjusted pH to ca. 2. A generated precipitate was isolated by filtration, washed with water, and dried in vacuo to give 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol (1.51 g, 84.3% yield).

reactant | 2-(4-methoxybenzoyl)-2-(4-methoxyphenyl)hydrazinecarboxamide | 6.03 mmol, 1.9 g | COC1=CC=C(C(=O)N(NC(=O)N)C2=CC=C(C=C2)OC)C=C1 | C16H17N3O4
reactant | ethanol | 8 mL | C(C)O | C2H6O
solvent | potassium hydroxide | 16 mL | [OH-].[K+]
product | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol | 1.51 g, 84.3% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)O | C16H15N3O3
